* Schematics Netlist *



R_R1         $N_0002 $N_0001  2  
R_R2         $N_0003 $N_0001  10  
R_R4         $N_0002 0  3  
R_R5         $N_0003 0  10  
R_R3         $N_0003 $N_0002  5  
V_V1         $N_0001 0 10V
