* Schematics Netlist *



V_V1         $N_0001 0 10V
R_R8         0 $N_0002  5  
R_R4         $N_0001 $N_0003  2  
R_R1         $N_0003 $N_0004  10  
R_R22         $N_0002 $N_0004  1  
R_R6         $N_0002 $N_0001  2  
R_R27         0 $N_0004  25  
V_V11         $N_0005 0 10V
R_R28         0 $N_0006  5  
R_R29         $N_0005 $N_0007  2  
R_R30         $N_0007 $N_0008  10  
R_R31         $N_0006 $N_0008  1  
R_R32         $N_0006 $N_0005  2  
V_V12         $N_0009 0 10V
R_R34         0 $N_0010  5  
R_R35         $N_0009 $N_0011  2  
R_R36         $N_0011 $N_0012  10  
R_R37         $N_0010 $N_0012  1  
R_R38         $N_0010 $N_0009  2  
R_R23         0 $N_0013  25  
R_R21         $N_0014 0  25  
R_R20         $N_0015 $N_0014  2.02228  
R_R24         0 $N_0013  2.02228  
I_I2         0 $N_0013 DC 3.7700021A  
V_V8         $N_0015 0 7.624V
v_V13         $N_0008 0 0
