* Schematics Netlist *



V_V1         $N_0001 0 10V
R_R8         0 $N_0002  5  
R_R4         $N_0001 $N_0003  1  
R_R6         $N_0002 $N_0001  7  
R_R1         $N_0003 $N_0004  9  
V_V4         $N_0005 0 10V
R_R9         0 $N_0006  5  
R_R10         $N_0005 $N_0007  1  
R_R11         $N_0006 $N_0005  7  
R_R12         $N_0007 $N_0008  9  
R_R13         0 $N_0008  25  
R_R14         $N_0006 $N_0008  9  
V_V6         $N_0009 0 10V
R_R15         0 $N_0010  5  
R_R16         $N_0009 $N_0011  1  
R_R17         $N_0010 $N_0009  7  
R_R18         $N_0011 $N_0012  9  
R_R19         0 $N_0012  25  
R_R22         $N_0002 $N_0004  9  
R_R20         $N_0014 $N_0013  5.435  
R_R21         $N_0013 0  25  
V_V8         $N_0014 0 7.338V
R_R23         0 $N_0015  25  
R_R24         0 $N_0015  5.435  
I_I2         0 $N_0015 DC 1.3501A  
v_V10         $N_0004 0 0
