* Schematics Netlist *



V_V1         $N_0001 0 20v
X_U2         $N_0001 $N_0002 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
C_C1         0 $N_0003  10uf  
R_R1         $N_0002 $N_0003  11  
