* Schematics Netlist *



R_R8         $N_0002 $N_0001  1  
R_R10         $N_0001 $N_0003  3  
R_R4         0 $N_0004  2  
R_R3         $N_0004 $N_0005  3  
R_R9         $N_0003 $N_0006  1  
R_R7         $N_0007 $N_0006  3  
V_V1         $N_0001 $N_0008 15V
V_V3         $N_0006 $N_0009 15V
R_R1         $N_0002 $N_0005  1  
R_R2         $N_0005 $N_0007  9  
R_R5         $N_0009 0  9  
R_R6         0 $N_0008  7  
