* Schematics Netlist *



V_V2         $N_0001 $N_0002 12
V_V1         $N_0003 $N_0004 8
R_R1         $N_0001 $N_0005  3  
R_R2         $N_0005 $N_0003  2  
R_R3         0 $N_0005  1  
R_R4         0 $N_0002  5  
R_R5         $N_0004 0  6  
